US09351989B2
(2R,3R,4R,5R)-2-(2-Amino-8-iodo-6-methoxy-9H-purin-9-yl)-5-(hydroxymethyl)-3-methyltetrahydrofuran-3,4-diol was synthesized as follows
2-Amino-6-methoxy-9-(2-C-methyl-β-D-ribofuranosyl)purine (1.5 g, 4.82 mmol) was suspended in dry THF (40 mL) and 1 mol eq. of NIS (1.1 g, 4.82 mmol) was added. The mixture was warmed to 35° C. and stirred in the dark for 3 days. After that time, solution was concentrated and the resulting solid was purified by silica gel chromatography using 1-4% (gradient) of MeOH in chloroform to yield 980 mg (47% yield) of the desired product.

reactant | 2-Amino-6-methoxy-9-(2-C-methyl-β-D-ribofuranosyl)purine | 4.82 mmol, 1.5 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@](O)([C@H](O)[C@H](O1)CO)C)OC | C12H17N5O5
reactant | NIS | 4.82 mmol, 1.1 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2R,3R,4R,5R)-2-(2-Amino-8-iodo-6-methoxy-9H-purin-9-yl)-5-(hydroxymethyl)-3-methyltetrahydrofuran-3,4-diol | 980 mg, 47% yield | NC1=NC(=C2N=C(N(C2=N1)[C@@H]1O[C@@H]([C@H]([C@]1(O)C)O)CO)I)OC | C12H16IN5O5
